US06900216B2
A mixture of benzo[b]thiophen-4-ol (4 g), benzoyl chloride (3.3 ml) and pyridine (10 ml) was heated under reflux under nitrogen for 3 hours, then cooled to ambient temperature and poured onto ice-water (130 ml). The product was extracted into ether (3×50 ml), the combined extracts were washed with 5% aqueous sodium hydrogencarbonate solution (50 ml), 2M hydrochloric acid (50 ml) and water (3×50 ml), then they were dried (MgSO4) and the solvent was removed in vacuo to give benzo[b]thiophen-4-yl benzoate (6.7 g) as a cream solid which was used without further purification.

reactant | benzo[b]thiophen-4-ol | 4 g | S1C2=C(C=C1)C(=CC=C2)O | C8H6OS
reactant | benzoyl chloride | 3.3 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | benzo[b]thiophen-4-yl benzoate | 6.7 g | C(C1=CC=CC=C1)(=O)OC1=CC=CC=2SC=CC21 | C15H10O2S
